US07851626B2
1-(4-Chlorophenyl)propan-1-one (8.4 g, 50 mmol) was combined with hydroxylamine hydrochloride (4.0 g, 58 mmol), pyridine (4.6 g, 58 mmol), and ethanol (75 mL). The mixture was refluxed for 3 h. Solvent was evaporated and the residue diluted with water and extracted into diethyl ether/hexane (1:1). The organic extracts were washed with water, brine, and dried over anhydrous magnesium sulfate. Crystallization from cold hexane gave 5.0 g of 1-(4-chlorophenyl)propan-1-one oxime.

reactant | 1-(4-Chlorophenyl)propan-1-one | 50 mmol, 8.4 g | ClC1=CC=C(C=C1)C(CC)=O | C9H9ClO
reactant | hydroxylamine hydrochloride | 58 mmol, 4.0 g | Cl.NO
reactant | pyridine | 58 mmol, 4.6 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 1-(4-chlorophenyl)propan-1-one oxime | 5.0 g | ClC1=CC=C(C=C1)C(CC)=NO | C9H10ClNO
